### PR TITLE
[Merged by Bors] - fix: use focus in `cases'` and `induction'`

### LINKED ISSUE #2016: bug in `cases'` goal management
```lean
import Mathlib.Tactic.Cases

example (p q : Prop) : (p → ¬ q) → ¬ (p ∧ q) := by
  intro hpnq hpq
  apply hpnq
  cases' hpq with hp hq
  assumption
  -- (kernel) declaration has metavariables '_example'


example (p q : Prop) : (p → ¬ q) → ¬ (p ∧ q) := by
  intro hpnq hpq
  apply hpnq
  cases hpq
  assumption
  cases hpq
  assumption -- succeeds
```

I can fix this with a focus at the beginning of the implementation of `cases'`, which seems like it wouldn't hurt, but I'm not sure that's the root cause.

### PR DESCRIPTION
**Pull request by digama0**
As [reported on Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/bug.20in.20cases'.20goal.20management/near/325426211). Fixes #2016.

### CODE REVIEW

File: Mathlib/Tactic/Cases.lean [hunk 1]
```diff
@@ -63,7 +63,7 @@ elab (name := induction') "induction' " tgts:(casesTarget,+)
     withArg:((" with " (colGt binderIdent)+)?)
     genArg:((" generalizing " (colGt ident)+)?) : tactic => do
   let targets ← elabCasesTargets tgts.1.getSepArgs
-  let g ← getMainGoal
+  let g :: gs ← getUnsolvedGoals | throwNoGoalsToBeSolved
```
Comment (gebner) [inline Mathlib/Tactic/Cases.lean:66]: Does that mean that every tactic using `withMainContext` is broken because it might run on already solved goals?

File: Mathlib/Tactic/Cases.lean [hunk 2]
```diff
@@ -88,13 +88,13 @@ elab (name := induction') "induction' " tgts:(casesTarget,+)
       g.assign result.elimApp
       let subgoals ← ElimApp.evalNames elimInfo result.alts withArg
         (numGeneralized := fvarIds.size) (toClear := targetFVarIds)
-      setGoals (subgoals ++ result.others).toList
+      setGoals <| (subgoals ++ result.others).toList ++ gs
```
Comment (gebner) [inline Mathlib/Tactic/Cases.lean:91]: This is the actual fix for #2016, right?

Comment (digama0) [reply Mathlib/Tactic/Cases.lean:91]: Yes, but you can't write this line without the other line to define `gs`

File: Mathlib/Tactic/Cases.lean (hunk 1 above)
Comment (digama0) [reply Mathlib/Tactic/Cases.lean:66]: No, `withMainContext` calls `getMainGoal` which selects the first *unsolved* goal (and also updates the goal list to remove the solved goals, which might be surprising for a `getFoo` function but generally results in tactics doing the right thing wrt subsequent goal list modifications).
